US07745451B2
C. 5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-6-m-tolylpyrido[4,3-d]pyrimidin-4-amine
5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[4,3-d]pyrimidin-4-amine (110 mg, 0.39 mmol) was dissolved in anhydrous THF (2 mL). To the mixture was added m-tolylboronic acid (105 mg, 0.78 mmol), Cu(OAc)2 (141 mg, 0.78 mmol) and triethylamine (0.68 g, 0.095 mL) and 390 mg of crushed, activated 4 A molecular seives. The mixture was agitated for 6 h and the solvent was removed under vacuum. The residue was purified using a gradient of ethyl acetate:hexane (0-100%) to give the desired compound as reddish powder (14 mg, 9.6%).

reactant | 5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)pyrido[4,3-d]pyrimidin-4-amine | 0.39 mmol, 110 mg | O1C2=C(OCC1)C=C(C=C2)NC=2C1=C(N=CN2)CCNC1 | C15H16N4O2
reactant | m-tolylboronic acid | 0.78 mmol, 105 mg | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | triethylamine | 0.095 mL, 0.68 g | C(C)N(CC)CC | C6H15N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Cu(OAc)2 | 0.78 mmol, 141 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 5,6,7,8-Tetrahydro-N-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-6-m-tolylpyrido[4,3-d]pyrimidin-4-amine | 14 mg, 9.6% | O1C2=C(OCC1)C=C(C=C2)NC=2C1=C(N=CN2)CCN(C1)C=1C=C(C=CC1)C | C22H22N4O2
